US03996376
A solution of 31.5 grams (0.1 mol) of α,α,5-trimethyl-2,2-bis(chlorodifluoromethyl)-1,3-dioxolane-4-methanol in 180 ml methylene dichloride is treated with 13.0 grams sodium cyanate (0.2 mol) while 22.8 grams of trifluoroacetic acid (0.2 mol) is added dropwise. The reaction is carried out at 25°-35° C. for 24 hours. After the reaction is completed, a small amount of water is added to dissolve salts and the methylene dichloride solution is separated and extracted once more with water. Vacuum stripping yields the product α,α,5-trimethyl-2,2-bis(chlorodifluoromethyl)-1,3-dioxolane-4-methanol carbamate. The product is purified by crystallization from a mixture of benzene and hexane.

reactant | α,α,5-trimethyl-2,2-bis(chlorodifluoromethyl)-1,3-dioxolane-4-methanol | 0.1 mol, 31.5 grams | CC(O)(C1OC(OC1C)(C(F)(F)Cl)C(F)(F)Cl)C | C9H12Cl2F4O3
reactant | sodium cyanate | 0.2 mol, 13.0 grams | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 0.2 mol, 22.8 grams | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | O | H2O
solvent | methylene dichloride | 180 ml | C(Cl)Cl | CH2Cl2
product | α,α,5-trimethyl-2,2-bis(chlorodifluoromethyl)-1,3-dioxolane-4-methanol carbamate | C(N)(=O)OC(C1OC(OC1C)(C(F)(F)Cl)C(F)(F)Cl)(C)C | C10H13Cl2F4NO4
